US07932272B2
2-nitro-thiophene-3-carbaldehyde
3-Dichloromethyl-2-nitro-thiophene described in Preparation Example T-1 (1.54 g, 7.26 mmol) was dissolved in formic acid (10 mL), and the solution was refluxed for 24 hours under nitrogen atmosphere. An aqueous solution of 5N sodium hydroxide was added to the reaction solution at 0° C., which was then extracted with ethyl acetate, the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1), and the title compound (472 mg, 3.00 mmol, 41%) was obtained as a light brown solid.

reactant | 3-Dichloromethyl-2-nitro-thiophene | ClC(C1=C(SC=C1)[N+](=O)[O-])Cl | C5H3Cl2NO2S
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | formic acid | 10 mL | C(=O)O | CH2O2
product | 2-nitro-thiophene-3-carbaldehyde | 3.00 mmol, 472 mg, 41% | [N+](=O)([O-])C=1SC=CC1C=O | C5H3NO3S
